US06930185B2
To a solution of 2-amino-5-nitrobenzaldehyde (1.00 g, 6.02 mmol) and 1-methyl-4-piperidinone (0.89 ml, 7.22 mmol) in ethanol (108 ml) was added a 4N aqueous sodium hydroxide solution (9.0 ml) at room temperature, and the mixture was stirred at 60° C. for 1 hour. The solvent was distilled off under reduced pressure, ethyl acetate was added to the resulting oil, the mixture was washed with an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After the solvent was concentrated under reduced pressure, the resulting residue was purified by alumina column chromatography (developing solvent: ethyl acetate), and converted into powders with diisopropyl ether to obtain 2-methyl-8-nitro-1,2,3,4-tetrahydrobenzo[b][1,6]naphthyridine (430 mg).

reactant | 2-amino-5-nitrobenzaldehyde | 6.02 mmol, 1.00 g | NC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O3
reactant | 1-methyl-4-piperidinone | 7.22 mmol, 0.89 ml | CN1CCC(CC1)=O | C6H11NO
reactant | sodium hydroxide | 4N, 9.0 ml | [OH-].[Na+]
solvent | ethanol | 108 ml | C(C)O | C2H6O
product | 2-methyl-8-nitro-1,2,3,4-tetrahydrobenzo[b][1,6]naphthyridine | 430 mg | CN1CC=2C=C3C(=NC2CC1)C=CC(=C3)[N+](=O)[O-] | C13H13N3O2
